US07488733B2
2-(Cyclopentylmethyl)-4-[(4-methyl-3-pyridinyl)amino]-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile
0.2 g (0.76 mmol) of methyl 2-cyano-3-[(4-methyl-3-pyridinyl)amino]-3-(methylsulfanyl)-2-propenoate are dissolved with 0.13 g (0.85 mmol) of 2-cyclopentylethanamidine hydrochloride and 0.23 g (1.67 mmol) of potassium carbonate in 4 ml of DMF and stirred at 90° C. for 3 days. After cooling, the product is purified by preparative HPLC (YMC Gel ODS-AQ S 5/15 μm; eluent A: water, eluent B: aceto-nitrile; gradient: 0 min 30% B, 5 min 30% B, 50 min 95% B) purified. 60 mg (25% of theory) of the product are obtained.

reactant | methyl 2-cyano-3-[(4-methyl-3-pyridinyl)amino]-3-(methylsulfanyl)-2-propenoate | 0.76 mmol, 0.2 g | C(#N)C(C(=O)OC)=C(SC)NC=1C=NC=CC1C | C12H13N3O2S
reactant | 2-cyclopentylethanamidine hydrochloride | 0.85 mmol, 0.13 g | Cl.C1(CCCC1)CC(=N)N
reactant | potassium carbonate | 1.67 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-(Cyclopentylmethyl)-4-[(4-methyl-3-pyridinyl)amino]-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile | C1(CCCC1)CC=1NC(C(=C(N1)NC=1C=NC=CC1C)C#N)=O | C17H19N5O
